US06989451B2
3-Hydroxy-5-(4-styryl-phenylamino)-isothiazole-4-carbonitrile
The title compound was prepared from 1-isothiacyanato-4-styryl-benzene and 2-cyanoacetamide by the procedure analogous to Method 2 for 3-Hydroxy-5-phenylamino-isothiazol-4-carbonitrile. 1H NMR (300 MHz, DMSO-d6) δ: 7.22–7.65 (m, 11H). MS (ES, m/z): 320.3, [M-H]+, 318.1 [M-H]−.

reactant | 2-cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | 3-Hydroxy-5-phenylamino-isothiazol-4-carbonitrile | OC1=NSC(=C1C#N)NC1=CC=CC=C1 | C10H7N3OS
product | 3-Hydroxy-5-(4-styryl-phenylamino)-isothiazole-4-carbonitrile | OC1=NSC(=C1C#N)NC1=CC=C(C=C1)C=CC1=CC=CC=C1 | C18H13N3OS
